US09169249B2
A mixture of 1-(4-fluoro-2-isopropoxyphenyl)-1H-tetrazol-5(4H)-one (4.10 g, 17.2 mmol, 1 equiv), K2CO3 (7.15 g, 52.0 mmol, 3 equiv), and iodomethane (3.25 mL, 52.0 mmol, 3 equiv) in DMF (40 mL) was stirred at RT ON. The reaction mixture was partitioned between water and EtOAc, then the layers were separated. The aqueous layer was extracted with EtOAc 2×, and the combined organic layer was washed with brine 1×. The organic layer was dried over Na2SO4, filtered, and concentrated to dryness to provide 1-(4-fluoro-2-isopropoxyphenyl)-4-methyl-1H-tetrazol-5(4H)-one (3.50 g, 81%) as a brown oil that was used without further purification. 1H NMR (300 MHz; d6-DMSO) δ 7.46-7.51 (dd, 1H, J=6.3 Hz, 8.4 Hz), 7.20-7.25 (dd, 1H, J=2.7 Hz, 11 Hz), 6.87-6.94 (td, 1H, J=2.7 Hz, 8.1 Hz), 4.63-4.75 (hept, 1H, J=6.0 Hz), 3.59 (s, 3H), 1.16-1.18 (d, 6H, J=6.0 Hz); 19F NMR (282 MHz; d6-DMSO) δ −107.0 (sextet); m/z=253 (M+H)+.

reactant | 1-(4-fluoro-2-isopropoxyphenyl)-1H-tetrazol-5(4H)-one | 17.2 mmol, 4.10 g, 1 equiv | FC1=CC(=C(C=C1)N1N=NNC1=O)OC(C)C | C10H11FN4O2
reactant | K2CO3 | 52.0 mmol, 7.15 g, 3 equiv | C(=O)([O-])[O-].[K+].[K+]
reactant | iodomethane | 52.0 mmol, 3.25 mL, 3 equiv | IC | CH3I
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 1-(4-fluoro-2-isopropoxyphenyl)-4-methyl-1H-tetrazol-5(4H)-one | 3.50 g, 81% | FC1=CC(=C(C=C1)N1N=NN(C1=O)C)OC(C)C | C11H13FN4O2
